US06117888
Step D: 3-Amino-4-(2-chloroethylsulfonyl)-1-ethyloxycarbonylmethyl-6-methyl-2-pyridinone
A mixture of platinum (IV) oxide (24 mg) and 4-(2-chloroethylsulfonyl)-1-ethyloxycarbonylmethyl-6-methyl-3-nitro-2-pyridinone (120 mg, 0.33 mmol) in ethanol (3.0 mL) was stirred under hydrogen for 16 h. The reaction was filtered through celite and evaporated to give the title compound as a glass:

reactant | 4-(2-chloroethylsulfonyl)-1-ethyloxycarbonylmethyl-6-methyl-3-nitro-2-pyridinone | 0.33 mmol, 120 mg | ClCCS(=O)(=O)C1=C(C(N(C(=C1)C)CC(=O)OCC)=O)[N+](=O)[O-] | C12H15ClN2O7S
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
catalyst | platinum (IV) oxide | 24 mg | [Pt](=O)=O
product | 3-Amino-4-(2-chloroethylsulfonyl)-1-ethyloxycarbonylmethyl-6-methyl-2-pyridinone | NC=1C(N(C(=CC1S(=O)(=O)CCCl)C)CC(=O)OCC)=O | C12H17ClN2O5S
